US07253165B2
Synthesis of (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(4-pyrimidin-2-yl-piperazin-1-yl)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and 2-piperazin-1-yl-pyrimidine in ethanol, essentially as described above in Example 70. Purity by LC/MS=-100%, [M+H]+=450.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | 2-piperazin-1-yl-pyrimidine | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(4-pyrimidin-2-yl-piperazin-1-yl)-propan-2-ol | FC1=CC2=C(C(=NO2)C2=CC=C(OC[C@@H](CN3CCN(CC3)C3=NC=CC=N3)O)C=C2)C=C1 | C24H24FN5O3
